US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-methoxyphenyl)benzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (41 mg, 0.15 mmol), N,N-diisopropylethylamine (0.105 mL, 0.60 mmol), and HBTU (63 mg, 0.165 mmol) in 1.5 mL DMF was briefly warmed to approx. 50° C. to dissolve solids, then continued stirring at room temperature. After 10 minutes meta-anisidine (0.025 mL, 0.225 mmol) was added and the reaction continued at room temperature for 4 hours. The reaction mixture was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was triturated with an acetone/hexane mixture to give the title compound as a light beige solid (41 mg, 73%). 1H NMR (DMSO-d6) δ: 10.13 (s, 1H), 8.13 (s, 1H), 7.46-7.51 (m, 2H), 7.31-7.41 (m, 3H), 7.19-7.28 (m, 2H), 6.68 (ddd, J=8.1, 2.4, 0.9 Hz, 1H), 6.41 (s, 2H), 4.29 (s, 2H), 3.75 (s, 3H), 3.65 (t, J=6.0 Hz, 2H), 2.77 (t, J=5.9 Hz, 2H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.15 mmol, 41 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | N,N-diisopropylethylamine | 0.60 mmol, 0.105 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.165 mmol, 63 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | meta-anisidine | 0.225 mmol, 0.025 mL | COC1=CC(=CC=C1)N | C7H9NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-methoxyphenyl)benzamide | 41 mg, 73% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)OC)C=CC2 | C21H21N5O2
